US03998966
A mixture of 2.2 g. of 6-hydroxy-2-naphthyl-α-methylacetic acid, 50 ml. of acetic anhydride, and 100 mg. of p-toluenesulfonic acid is stirred for four hours at 50° C. The mixture is evaporated, water is added, and the mixture is extracted with diethyl ether which is washed with water to neutrality, dried over sodium sulfate, and evaporated to yield 6-acetoxy-2-naphthyl-α-methylacetic acid.

reactant | 6-hydroxy-2-naphthyl-α-methylacetic acid | OC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C13H12O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 6-acetoxy-2-naphthyl-α-methylacetic acid | C(C)(=O)OC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C15H14O4
